US08076359B2
Step 1: Methyl 3,5-dibromobenzoate
To a solution of 3,5-dibromobenzoic acid (1 eq.) in ether was added dropwise a solution of diazomethane in ether until gas evolution had ceased. The reaction was stirred for 20 min and concentrated in vacuo to afford the title compound.

reactant | 3,5-dibromobenzoic acid | 1 eq. | BrC=1C=C(C(=O)O)C=C(C1)Br | C7H4Br2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | Methyl 3,5-dibromobenzoate | BrC=1C=C(C(=O)OC)C=C(C1)Br | C8H6Br2O2
